.include technology.txt

*i Vgs tha pairnei tis times -0.8,-1.2,-2,-2.5
Vgs 1 0 DC -2.5
Vds 2 0 DC 0
MP0 2 1 0 0 CMOSP W=3u L=2u

*to diastima sto opoio trexei to vds tha allazei analoga tin perioxi koresmou
.DC Vds  -2.5 0 0.25 
.control

	run
	set color0=black	
	set color1=blue
	plot V(2)/(-i(Vds))
	plot mean(V(2)/(-i(Vds)))

.endc
.end


