.include technology.txt

*i Vgs tha pairnei tis times -0.8,-1.2,-2,-2.5
Vgs 1 0 DC -0.8
Vds 2 0 DC 0
MP0 2 1 0 0 CMOSP W=3u L=2u

*to diastima sto opoio trexei to vds tha allazei analoga tin perioxi koresmou
.DC Vds  -2.5 -0.25 0.25 
.control

	run
	set color0=black	
	set color1=blue
	
	plot mean(V(2)/(-i(Vds)))
.endc
.end


