.include technology.txt

M1 2 1 0 0 CMOSN W=3u L=2u
M2 2 1 3 3 CMOSP W=3u L=2u

*to Vdd tha parei tis times 0.7 1.2 1.8 2.5
Vdd 3 0 DC 0.7
Vin 1 0 DC 0



*to Vin tha trexei apo to 0 eos to antistoixo Vdd kathe fora
.DC Vin 0 0.7 0.001
.control
	run
	set hcopydevtype=postscript
	set hcopypscolor=true
	set color0=black
	set color1=blue
	plot V(2) V(1) 
	plot deriv(V(2))
 	plot  mean(-i(Vdd))
	plot mean(V(3)*(-i(Vdd)))



.endc
.END
