.include technology.txt

*allazo tis times to platon ton tranzistors apo 2u kai 2u se 2u kai 6u gia na kataskeuaso summetriko antistrofea
M1 2 1 0 0 CMOSN W=2u L=2u
M2 2 1 3 3 CMOSP W=12u L=2u


Vdd 3 0 DC 2.5
Vin 1 0 DC 0




.DC Vin 0 2.5 0.001
.control
	run
	set color0=black
	set color1=blue
	plot V(2) V(1) 
	plot deriv(V(2))


.endc

.END
