.include ./technology.txt


Vdd 3 0 DC 2.5
Vin 1 0 DC 2.5
M1 2 1 3 3 CMOSN W=3u L=2u
M2 4 1 2 0 CMOSN W=3u L=2u
C1 4 0 0.1p



.IC V(2)=0
.IC V(4)=0
.tran 10p 10n 

.control
	run
	set color0=white
	set color1=black
	plot V(2) V(4)
	 

.endc
.end
