.include technology.txt

Vgs 1 0 DC 0
Vds 2 0 DC 0
MP0 2 1 0 0 CMOSP W=3u L=2u


.DC Vds  -2.5 0 0.25 Vgs -2.5 0 0.25
.control

run
set color0=black
set color1=blue
plot (-i(Vds))
.endc
.end


